US08471005B2
5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-nicotinamide
The titled compound was prepared in analogous fashion as Example 522 using 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol, N-phenylbis(trifluoromethanesulphonimide) and 5-amino-nicotinamide to give 5-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-nicotinamide as a light brown solid (23.9 mg, 40% yield). M.p.=>250° C. LCMS (E/I+) 361 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 9.85 (s, 1H), 9.05 (s, 1H), 8.92 (s, 1H), 8.83 (s, 1H), 8.60 (m, 3H), 8.09 (s, 1H), 7.62 (s, 1H), 7.25 (d, 1H, J=4.7 Hz), 7.02 (m, 2H), 3.92 (s, 3H).

reactant | 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)O | C12H10N4O2
reactant | N-phenylbis(trifluoromethanesulphonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 5-amino-nicotinamide | NC=1C=NC=C(C(=O)N)C1 | C6H7N3O
product | 5-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-nicotinamide | 23.9 mg, 40% yield | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC=2C=NC=C(C(=O)N)C2 | C18H15N7O2
